US04829069
(f) 4-(3,4,5-Trimethoxybenzylthio)-quinazoline
The title compound(3.56 g) was prepared from 4-mercaptoquinazoline(4.0 g) and 3,4,5-trimethoxybenzyl chloride(7.3 g).

reactant | 4-mercaptoquinazoline | 4.0 g | SC1=NC=NC2=CC=CC=C12 | C8H6N2S
reactant | 3,4,5-trimethoxybenzyl chloride | 7.3 g | COC=1C=C(CCl)C=C(C1OC)OC | C10H13ClO3
product | 4-(3,4,5-Trimethoxybenzylthio)-quinazoline | 3.56 g | COC=1C=C(CSC2=NC=NC3=CC=CC=C23)C=C(C1OC)OC | C18H18N2O3S
